US07897609B2
A solution of 1-{4-amino-7-[5-(tert-butyldimethylsilanyloxymethyl)pyridin-3-yl]-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol (1.37 g, 2.55 mmol) in acetic acid (10 mL), tetrahydrofuran (10 mL), and water (10 mL) was stirred at 60° C. for 18.5 hours and allowed to cool to room temperature. The solvent was removed under reduced pressure, and the residue was diluted with saturated aqueous sodium bicarbonate (30 mL). Dichloromethane was added, but an oil was present that remained insoluble in both phases. Both phases were decanted away from the oil, which was dissolved in methanol. The aqueous phase was then separated and extracted with dichloromethane (30 mL) and ethyl acetate (2×30 mL). Silica gel was added to the combined dichloromethane, ethyl acetate, and methanol fractions, and the solvent was removed under reduced pressure. The residue was purified by automated flash chromatography (FLASH 40+M silica cartridge, eluting with 5% to 20% methanol in dichloromethane). The resulting material was concentrated from acetonitrile to form a solid, which was triturated with acetonitrile (30 mL), isolated by filtration, washed with acetonitrile, and dried overnight in a vacuum oven to provide 530 mg of 1-{4-amino-2-(ethoxymethyl)-7-[5-(hydroxymethyl)pyridin-3-yl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol as a light yellow solid, mp 212-214° C.

reactant | 1-{4-amino-7-[5-(tert-butyldimethylsilanyloxymethyl)pyridin-3-yl]-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 2.55 mmol, 1.37 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)C=2C=NC=C(C2)CO[Si](C)(C)C(C)(C)C | C28H40N6O3Si
reactant | water | 10 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-{4-amino-2-(ethoxymethyl)-7-[5-(hydroxymethyl)pyridin-3-yl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol | 530 mg | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)C=2C=NC=C(C2)CO | C22H26N6O3
